US04846882
By the method of Example 7, Step C, 141.4 g (0.978 mole) of 2-chloro-4-fluorotoluene, 175.8 g (0.978 mole) of N-bromosuccinimide, and 5.0 g of benzoyl peroxide in 15 liters of carbon tetrachloride were reacted, yielding 165 g of 2-chloro-4-fluorobenzyl bromide as a white solid.

reactant | 2-chloro-4-fluorotoluene | 0.978 mole, 141.4 g | ClC1=C(C=CC(=C1)F)C | C7H6ClF
reactant | N-bromosuccinimide | 0.978 mole, 175.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 15 liters | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 5.0 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 2-chloro-4-fluorobenzyl bromide | 165 g | ClC1=C(CBr)C=CC(=C1)F | C7H5BrClF
